US06951848B2
5-(2-Cyclohexylamino-ethyl)-2-methyl-1H-indole-3-carboxylic acid benzyl ester
5-(2-Amino-ethyl)-2-methyl-1H-indole-3-carboxylic acid benzyl ester hydrochloride (0.331 g, 0.961 mmol) and cyclopentanone (99.6 μL, 0.961 mmol) were mixed together in dichloroethane and stirred at room temperature under N2 for 30 minutes. The mixture was then cooled to 0° C., whereupon sodium triacetoxyborohydride (0.209 g, 0.988 mmol) was added and stirred without warming for a further 30 minutes). The reaction was then permitted to warm to rt and stirred for 20 hours. 1N NaOH (10 ML) was then added and extracted with EtOAc. The combined organic layers was washed with brine, dried on Na2SO4 and chromatographed (10% MeOH/CH2Cl2) to give 0.200 g, (53%), of the desired product, mp 97-100° C. pure product. 1HNMR (400 MHz, DMSO): δ 0.86-1.73 (m, 10H), 2.31 (m, 1H), 2.59 (s, 3H, ArCH3), 2.69 (m, 4H), 5.29 (s, 2H), 6.93 (d, J=8.06 Hz, J=1.64 Hz, ArH), 7.21 (d, J=8.06 Hz, 1H), 7.28-7.45 (m, 5H, ArH), 7.70 (s, 1H, ArH), 11.74 (s, ArNH). MS (APCI+) m/z 391.2(MH+). Anal. Calcd for C25H30N2O2.0.20H2O: C, 76.19; H, 7.77; N, 7.11. Found: C, 75.84: H, 8.09: N, 6.73. IR (KBr): 3309, 2927, 2854,1662, 1450, 1076 cm−1.

reactant | 5-(2-Amino-ethyl)-2-methyl-1H-indole-3-carboxylic acid benzyl ester hydrochloride | 0.961 mmol, 0.331 g | Cl.C(C1=CC=CC=C1)OC(=O)C1=C(NC2=CC=C(C=C12)CCN)C
reactant | cyclopentanone | 0.961 mmol, 99.6 μL | C1(CCCC1)=O | C5H8O
reactant | sodium triacetoxyborohydride | 0.988 mmol, 0.209 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | NaOH | 1N | [OH-].[Na+]
solvent | dichloroethane | ClC(C)Cl | C2H4Cl2
product | 5-(2-Cyclohexylamino-ethyl)-2-methyl-1H-indole-3-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)C1=C(NC2=CC=C(C=C12)CCNC1CCCCC1)C | C25H30N2O2
